US07262185B2
To 3-hydroxymethyl-4-propyl-4H-1,2,4-triazole (5.95 g), thionyl chloride (40 ml) was slowly added at 0° C. The mixture was heated to reflux for 1 hour, and concentrated under reduced pressure. To the residue was added ethanol, and the mixutre was further concentrated. To the residue were added ethyl acetate and small amount of ethanol, and the precipitated crystals were collected by filtration. The crystals were washed with ethyl acetate, to give 3-chloromethyl-4-propyl-4H-1,2,4-triazole hydrochloride (5.43 g) as pale yellow crystals.

reactant | 3-hydroxymethyl-4-propyl-4H-1,2,4-triazole | 5.95 g | OCC1=NN=CN1CCC | C6H11N3O
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-4-propyl-4H-1,2,4-triazole hydrochloride | 5.43 g | Cl.ClCC1=NN=CN1CCC | InChI=1S/C6H10ClN3.ClH/c1-2-3-10-5-8-9-6(10)4-7;/h5H,2-4H2,1H3;1H
